US07786329B2
(2S,3R)-Ethyl-2-amino-3-[4-(methylsulfonyl)phenyl]-3-hydroxy-propanoate (Compound IV) (100 g, 0.3480 moles) in 500 mL of methanol reacts with 2,2-dimethoxypropane (39.9 g, 0.3828 moles) and lithium carbonate at 60-70° C. to yield (4S,5R)-2,2-dimethyl-4-ethylcarboxyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine (Compound XIVa) (113.9 g, 0.3480 moles). Addition of potassium borohydride (28.2 g, 0.5220 moles) with stirring over 4-8 hours at 50-60° C. then yields (4R,5R)-2,2-dimethyl-4-hydroxymethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine (Compound VIIIa). Addition of potassium carbonate (19.0 g, 0.1914 moles) and dichloroacetyl chloride (56.4 g, 0.3828 moles) at 20-25° C. for 2-4 hours then addition of water (500 mL) precipitates the crude product. Filtration, washing with water (250 mL) then drying yields (4R,5R)-3-dichloroacetyl-2,2-dimethyl-4-hydroxymethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine (Compound XIIa).

reactant | potassium borohydride | 0.5220 moles, 28.2 g | [BH4-].[K+]
reactant | (4R,5R)-2,2-dimethyl-4-hydroxymethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine | CC1(O[C@@H]([C@H](N1)CO)C1=CC=C(C=C1)S(=O)(=O)C)C | C13H19NO4S
reactant | potassium carbonate | 0.1914 moles, 19.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloroacetyl chloride | 0.3828 moles, 56.4 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | water | 500 mL | O | H2O
product | (4R,5R)-3-dichloroacetyl-2,2-dimethyl-4-hydroxymethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine | ClC(C(=O)N1C(O[C@@H]([C@H]1CO)C1=CC=C(C=C1)S(=O)(=O)C)(C)C)Cl | C15H19Cl2NO5S
